US09301951B2
Intermediate 76d: tert-butyl 3-(3-(4-(piperidin-1-yl)-2-(6-(1-(3-(trifluoromethyl)phenyl)-ethylamino)pyrimidin-4-yl)phenylcarbamoyl)benzylthio)propanoate
Into a 100-mL round-bottom flask, was placed a solution of 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (147 mg, 0.50 mmol, 1.10 equiv) in dichloromethane (5 mL), EDC.HCl (143 mg, 0.74 mmol, 1.50 equiv), 4-dimethylaminopyridine (92 mg, 0.71 mmol, 1.50 equiv), and 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidin-4-amine (200 mg, 0.45 mmol, 1.00 equiv). The resulting solution was stirred for 3 h at 30° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (5:1). The product was obtained as 100 mg (31%) of a yellow oil.

reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.50 mmol, 147 mg, 1.10 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC.HCl | 0.74 mmol, 143 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidin-4-amine | 0.45 mmol, 200 mg, 1.00 equiv | NC1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NC(C)C1=CC(=CC=C1)C(F)(F)F | C24H26F3N5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.71 mmol, 92 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-(3-(4-(piperidin-1-yl)-2-(6-(1-(3-(trifluoromethyl)phenyl)-ethylamino)pyrimidin-4-yl)phenylcarbamoyl)benzylthio)propanoate | 100 mg, 31% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C1=NC=NC(=C1)NC(C)C1=CC(=CC=C1)C(F)(F)F | C39H44F3N5O3S
